US04141982
In a manner analogous to that described in Example 12, 5.2 g of 5-butyryl-6-methoxy-1-methyl-benzimidazole-2-methanol are oxidised with 4.5 g of potassium permanganate to give 5-butyryl-6-methoxy-1-methyl-benzimidazole-2-carboxylic acid with a melting point above 85° (decomposition)

reactant | 5-butyryl-6-methoxy-1-methyl-benzimidazole-2-methanol | 5.2 g | C(CCC)(=O)C1=CC2=C(N(C(=N2)CO)C)C=C1OC | C14H18N2O3
reactant | potassium permanganate | 4.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
product | 5-butyryl-6-methoxy-1-methyl-benzimidazole-2-carboxylic acid | C(CCC)(=O)C1=CC2=C(N(C(=N2)C(=O)O)C)C=C1OC | C14H16N2O4
